### ISSUE TITLE
Infinite loop in `simp`: `ite_congr not modified`

### ISSUE THREAD

**Issue by Rob23oba** [leanprover/lean4#7525]
### Prerequisites

Please put an X between the brackets as you perform the following steps:

* [X] Check that your issue is not already filed:
      https://github.com/leanprover/lean4/issues
* [X] Reduce the issue to a minimal, self-contained, reproducible test case.
      Avoid dependencies to Mathlib or Batteries.
* [X] Test your test case against the latest nightly release, for example on
      https://live.lean-lang.org/#project=lean-nightly
      (You can also use the settings there to switch to “Lean nightly”)

### Description

In some specific contexts (presumably where multiple simp congruence lemmas are chained), `simp` runs in an infinite loop and then fails with `(deterministic) timeout reached at isDefEq`. When looking at the simp trace, it shows the same message repeated over and over again: `ite_congr not modified`.

### Context

This issue occurred while working on proofs for the hash map.

### Steps to Reproduce

```lean
theorem Option.get_pmap {α β : Type _} {p : α → Prop} (f : (a : α) → p a → β) (o : Option α) (h : ∀ a ∈ o, p a)
    (h' : (o.pmap f h).isSome) : (o.pmap f h).get h' = f (o.get (by simpa using h')) (h _ (by simp)) := by
  cases o <;> trivial

set_option trace.Meta.Tactic.simp true in
set_option maxHeartbeats 2000 in

example {α : Type u} {β : α → Type v} {f : (a : α) → β a → Bool} :
  (sorry : Option α) =
    (sorry : Option α).pbind fun a h =>
      if (f a ((Option.pmap (fun p h => cast sorry (sorry : β p.fst)) (sorry : Option (α × β a)) fun _ => id).get
                  ((sorry : _ → _) h))) =
            true then sorry else sorry := by
  simp only [Option.get_pmap, -eq_self]
```

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.

**Comment by Rob23oba** [comment]
Can't reproduce anymore, so perhaps this was fixed along something else.
